US05382596
(S)-N-(1,2,3,4-Tetrahydro-5-hydroxy-2-naphthalenyl)-N-propylcarbamic acid, phenylmethyl ester
A stirring suspension of (S)-6-propylamino-5,6,7,8-tetrahydro-l-naphthalenol (7.34 g, 0.0257 mol) in water (100 mL) was cooled in an ice bath and sodium bicarbonate (8.49 g, 0,101 mol) was added. This suspension was stirred for fifteen minutes then benzyl chloroformate (4.50 g, 0.0264 mol) was added dropwise. The mixture was stirred for fifteen minutes and then allowed to come to room temperature. Ether (100 mL) was added and the mixture was stirred overnight. The layers were separated and the aqueous layer was extracted with ether. The combined organic layers were washed twice with saturated aqueous sodium bicarbonate, once with water, twice with dilute hydrochloric acid, once with water and once with saturated aqueous sodium chloride, dried (magnesium sulfate) and concentrated under reduced pressure to give 7.09 g (81% yield) of product as a yellow solid.

reactant | (S)-6-propylamino-5,6,7,8-tetrahydro-l-naphthalenol | 0.0257 mol, 7.34 g | C(CC)N[C@@H]1CC=2C=CC=C(C2CC1)O | C13H19NO
reactant | sodium bicarbonate | 0,101 mol, 8.49 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 0.0264 mol, 4.50 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Ether | 100 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | (S)-N-(1,2,3,4-Tetrahydro-5-hydroxy-2-naphthalenyl)-N-propylcarbamic acid, phenylmethyl ester | 7.09 g, 81% yield | OC1=C2CC[C@@H](CC2=CC=C1)N(C(OCC1=CC=CC=C1)=O)CCC | C21H25NO3
